US05977105
b) 3'-Methoxycarbonylbiphenyl-4-ol
Solid 3'-carboxybiphenyl-4-ol (1.5 g) was suspended in methanol (10 ml) and concentrated sulfuric acid (1 ml). The mixture was heated at reflux for 16 hours. After cooling, the mixture was basified by the addition of solid sodium hydrogen carbonate. The white solid which formed was filtered and washed with copious amounts of water to give the sub-title compound as a white solid (1.5 g).

reactant | 3'-carboxybiphenyl-4-ol | 1.5 g | C(=O)(O)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C13H10O3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3'-Methoxycarbonylbiphenyl-4-ol | 1.5 g | COC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)O | C14H12O3
